US09120793B2
(S)-3-{4-[2-(4-Hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester
To a stirred solution of ethyl (3S)-3-[4-[(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methoxy]phenyl]hex-4-ynoate (1.0 g, 2.2 mmol) and 4-hydroxy phenyl boronic acid (0.37 g, 2.7 mmol) in 1,4-dioxane (30 mL) is added K2CO3 (0.91 g, 6.6 mmol). The mixture purged with nitrogen for 10 minutes. Pd(PPh3)2Cl2 (0.14 g, 0.2 mmol) is added and the mixture is heated at 100° C. for 12 hours. The reaction mixture is cooled to room temperature, filtered through diatomaceous earth, and washed with EtOAc (2×10 mL). The filtrate is dried over anhydrous sodium sulphate, filtered, and concentrated to dryness. The crude material is purified by silica gel chromatography (combiflash using 24 g redisep column) eluting with 15-20% EtOAc/hexane to give the title compound (0.75 g, 73.52%). LCMS m/z 456.2 (M+H)+.

reactant | ethyl (3S)-3-[4-[(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methoxy]phenyl]hex-4-ynoate | 2.2 mmol, 1.0 g | BrC1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)OCC)C#CC)=N1 | C21H20BrN3O3
reactant | 4-hydroxy phenyl boronic acid | 2.7 mmol, 0.37 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | K2CO3 | 6.6 mmol, 0.91 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.2 mmol, 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-3-{4-[2-(4-Hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | 0.75 g, 73.52% | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)O)=O | C27H25N3O4
